US07968570B2
4-Bromo-2-methoxy-6-methyl benzamide
4-Bromo-2-methoxy-6-methyl benzonitrile (7.3 g, 32.4 mmol) was stirred in MeOH (100 mL) and 5N NaOH (100 mL) at 100° C. for 12 hours. The reaction was cooled to room temperature and the methanol was removed under reduced pressure. The reaction mixture was extracted with CH2Cl2 and the solvent was removed under reduced pressure to yield the product (7.13 g, 90%). 1H NMR (300 MHz, CDCl3): δ 7.03 (d, 1H), 6.94 (d, 1H), 5.83 (br s, 2H), 3.85 (s, 3H), 2.39 (s, 3H).

reactant | 4-Bromo-2-methoxy-6-methyl benzonitrile | 32.4 mmol, 7.3 g | BrC1=CC(=C(C#N)C(=C1)C)OC | C9H8BrNO
reactant | NaOH | 5N, 100 mL | [OH-].[Na+]
solvent | MeOH | 100 mL | CO | CH4O
product | 4-Bromo-2-methoxy-6-methyl benzamide | 7.13 g, 90% | BrC1=CC(=C(C(=O)N)C(=C1)C)OC | C9H10BrNO2
